US08866135B2
In the atmosphere of argon, 19.7 g of 2′-fluoro-2,3-dimethoxybiphenyl and 500 mL of anhydrous THF were placed in a flask. 56 mL of a hexane solution of 1.6M n-butyllithium was added, and the reaction solution was stirred at room temperature for 4 hours. After cooling to −78° C., 30 mL of a THF solution of 27.8 g of trimethyl borate was added dropwise. While heating to room temperature, the reaction solution was stirred for 8 hours. 200 mL of 10% HCl was added to the reaction solution, and the resulting mixture was stirred for 2 hours. The reaction solution was extracted with ether. An aqueous phase was removed, and then an organic phase was washed with saturated saline. After drying the organic phase with magnesium sulfate, the organic phase was concentrated, and residues were washed with hexane, whereby 15.2 g (yield: 65%) of 2′-fluoro-2,3-dimethoxybiphenyl-4-boronic acid was obtained.

reactant | 2′-fluoro-2,3-dimethoxybiphenyl | 19.7 g | FC1=C(C=CC=C1)C1=C(C(=CC=C1)OC)OC | C14H13FO2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | trimethyl borate | 27.8 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 200 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | 56 mL | CCCCCC | C6H14
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2′-fluoro-2,3-dimethoxybiphenyl-4-boronic acid | 15.2 g, yield: 65% | FC1=C(C=CC=C1)C1=C(C(=C(C=C1)B(O)O)OC)OC | C14H14BFO4
